US07759373B2
To a solution of 5-formylmethylamino-2-(4-fluorophenyl)-4-phenylimidazole (200 mg) in tetrahydrofuran (5 ml) was added dropwise 10M borane.dimethylsulfide complex (0.34 ml), and the mixture was stirred under argon atmosphere at room temperature for overnight. To the reaction mixture was slowly added 10% hydrochloric acid, and the mixture was refluxed for one hour. After cooling, the mixture was neutralized by adding a saturated aqueous sodium hydrogen carbonate solution, and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over anhydrous sodium sulfate and the solvent was removed under reduced pressure. The resulting residue was purified by silica gel flush column chromatography (solvent: hexane:ethyl acetate=5:1), and then, treated with hydrogen chloride-methanol solution to obtain 5-dimethylamino-2-(4-fluorophenyl)-4-phenylimidazole hydrochloride (174 mg) as colorless powder.

reactant | 5-formylmethylamino-2-(4-fluorophenyl)-4-phenylimidazole | 200 mg | C(=O)CNC1=C(N=C(N1)C1=CC=C(C=C1)F)C1=CC=CC=C1 | C17H14FN3O
reactant | borane | 10M | B | BH3
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 5-dimethylamino-2-(4-fluorophenyl)-4-phenylimidazole hydrochloride | 174 mg | Cl.CN(C1=C(N=C(N1)C1=CC=C(C=C1)F)C1=CC=CC=C1)C | InChI=1S/C17H16FN3.ClH/c1-21(2)17-15(12-6-4-3-5-7-12)19-16(20-17)13-8-10-14(18)11-9-13;/h3-11H,1-2H3,(H,19,20);1H
